US05476954
0.115 g of carbon powder carrying 10% of palladium is added to a solution of 1.15 g of ethyl (2R,3S)-3-azido-2-hydroxy-3-(4-methylphenyl)propionate in 35 cm3 of ethyl acetate. The reaction mixture is stirred under a hydrogen pressure of 120 kPa and at a temperature in the region of 22° C. for 8 hours and then filtered through sintered glass lined with Celite. The sintered glass is washed with 5 cm3 of ethyl acetate and the filtrates are combined and then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. 0.83 g of ethyl (2R,3S)-3-amino-2-hydroxy-3-(4-methylphenyl)propionate is thereby obtained in the form of a pale yellow paste.

reactant | ethyl (2R,3S)-3-azido-2-hydroxy-3-(4-methylphenyl)propionate | 1.15 g | N(=[N+]=[N-])[C@H]([C@H](C(=O)OCC)O)C1=CC=C(C=C1)C | C12H15N3O3
solvent | ethyl acetate | 35 cm3 | C(C)(=O)OCC | C4H8O2
catalyst | palladium | [Pd] | Pd
product | ethyl (2R,3S)-3-amino-2-hydroxy-3-(4-methylphenyl)propionate | 0.83 g | N[C@H]([C@H](C(=O)OCC)O)C1=CC=C(C=C1)C | C12H17NO3
